US06403586B1
Preparation of 2-(4-Chlorocinnamyl)-6-(3-fluoro-4-methoxyphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one
Using 6-(3-fluoro-4-methoxyphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one and 4-chlorocinnamyl chloride as starting materials, the procedures of Example 1 were repeated likewise, whereby the title compound was obtained in a yield of 75.5%.

reactant | 6-(3-fluoro-4-methoxyphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one | FC=1C=C(C=CC1OC)C=1C=C(C(NN1)=O)C(=O)OC | C13H11FN2O4
reactant | 4-chlorocinnamyl chloride | ClC1=CC=C(C=CCCl)C=C1 | C9H8Cl2
product | 2-(4-Chlorocinnamyl)-6-(3-fluoro-4-methoxyphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one | yield of 75.5% | ClC1=CC=C(C=CCN2N=C(C=C(C2=O)C(=O)OC)C2=CC(=C(C=C2)OC)F)C=C1 | C22H18ClFN2O4
